US08685969B2
A solution of ethyl 4-(3-(((benzyloxy)carbonyl)amino)-2-methylphenyl)-7-bromo-3-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-1-carboxylate (4.68 g, 8.12 mmol) and 10% palladium on carbon (2.59 g, 2.44 mmol) in xylene (130 mL) was heated at 120° C. overnight. The reaction mixture was diluted with ethyl acetate and filtered through a pad of CELITE®. The CELITE® pad was washed well with ethyl acetate, and the filtrate was concentrated under reduced pressure. The residue was purified by flash silica gel chromatography using a mixture of ethyl acetate in hexane (20%-35%-50%) to give ethyl 4-(3-(((benzyloxy)carbonyl)amino)-2-methylphenyl)-7-bromo-3-methyl-9H-pyrido[3,4-b]indole-1-carboxylate (1.49 g, 2.60 mmol, 32% yield) as a burgundy solid. LC/MS M+1=572.2 and 574.2.

reactant | ethyl 4-(3-(((benzyloxy)carbonyl)amino)-2-methylphenyl)-7-bromo-3-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-1-carboxylate | 8.12 mmol, 4.68 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1C(NC(C=2NC3=CC(=CC=C3C21)Br)C(=O)OCC)C)C | C30H30BrN3O4
catalyst | palladium on carbon | 2.44 mmol, 2.59 g | [Pd] | Pd
solvent | xylene | 130 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(3-(((benzyloxy)carbonyl)amino)-2-methylphenyl)-7-bromo-3-methyl-9H-pyrido[3,4-b]indole-1-carboxylate | 2.60 mmol, 1.49 g, 32% yield | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=C(N=C(C=2NC3=CC(=CC=C3C21)Br)C(=O)OCC)C)C | C30H26BrN3O4
